US05559111
The N-tert-butoxycarbonyl-2(R)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-hydroxyphenyl)-octanoic acid (N-butyl)amide used as starting material is prepared analogously to Example 5a)-5l), except that in step k) instead of 3-acetoxy-4-tert-butyl-benzyl bromide there is used 3-benzyloxy-benzyl bromide, so that in step i) 2(R)-isopropyl-3-(3-benzyloxy-phenyl)-propanol, Rf (dichloromethane/hexane=1:1)=0.19, is obtained directly.

reactant | N-tert-butoxycarbonyl-2(R)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-hydroxyphenyl)-octanoic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=CC=C1)O)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C27H46N2O5
reactant | 3-acetoxy-4-tert-butyl-benzyl bromide | C(C)(=O)OC=1C=C(CBr)C=CC1C(C)(C)C | C13H17BrO2
reactant | 3-benzyloxy-benzyl bromide | C(C1=CC=CC=C1)OC=1C=C(CBr)C=CC1 | C14H13BrO
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | 2(R)-isopropyl-3-(3-benzyloxy-phenyl)-propanol | C(C)(C)[C@H](CO)CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C19H24O2
